US05688815
3-Benzyloxy-1-(2-hydroxy-etbyl)-2-(hydroxy-thiophen-2-yl-methyl)-1H-pyridin-4-one: 1.88 g of 3-benzyloxy-1-(2-hydroxy-ethyl)-2-[(tetrahydro-pyran-2-yloxy)-thiophen-2-yl-methyl]-1H-pyridin-4-one are boiled under reflux for 90 minutes in 7 ml of methanol and 4.25 ml of 2N hydrochloric acid. For working-up, the methanol is removed using a rotary evaporator. The residue is diluted with 20 ml of water and covered with 20 ml of ethyl acetate. Then, with stirring, 10 ml of saturated sodium hydrogen carbonate solution are added. The resulting product is filtered off and washed with water and ethyl acetate. Drying yields 3-benzyloxy-1-(2-hydroxy-ethyl)-2-(hydroxy-thiophen-2-yl-methyl)-1H-pyridin-4-one in the form of colourless crystals. M.p.: 193.8°-196° C.

reactant | 3-benzyloxy-1-(2-hydroxy-ethyl)-2-[(tetrahydro-pyran-2-yloxy)-thiophen-2-yl-methyl]-1H-pyridin-4-one | 1.88 g | C(C1=CC=CC=C1)OC1=C(N(C=CC1=O)CCO)C(C=1SC=CC1)OC1OCCCC1 | C24H27NO5S
solvent | methanol | 7 ml | CO | CH4O
solvent | hydrochloric acid | 2N, 4.25 ml | Cl | ClH
product | 3-benzyloxy-1-(2-hydroxy-ethyl)-2-(hydroxy-thiophen-2-yl-methyl)-1H-pyridin-4-one | C(C1=CC=CC=C1)OC1=C(N(C=CC1=O)CCO)C(C=1SC=CC1)O | C19H19NO4S
